US07981882B2
2-[3-(2-Phenyl-[1,3]dioxolan-2-yl)-propyl]-isoindole-1,3-dione
Add 2-(3-chloropropyl)-2-phenyl-[1,3]dioxolane (38 g, 168 mmol) and potassium phthalimide (34.2 g, 184.4 mmol) to DMF (80 mL) and stir for 40 min at 150° C. Cool the reaction to RT, dilute with water (1 L) and extract the mixture with a mixture of EtOAc (500 mL) and hexanes (500 mL) and DCM (2 L). Dry (sodium sulfate), concentrate and recrystallize the solid from hot ethanol (600 mL). Filter and dry the residue under vacuum to isolate the title compound as a white solid (47.62 g, 84%).

reactant | 2-(3-chloropropyl)-2-phenyl-[1,3]dioxolane | 168 mmol, 38 g | ClCCCC1(OCCO1)C1=CC=CC=C1 | C12H15ClO2
reactant | potassium phthalimide | 184.4 mmol, 34.2 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 1 L | O | H2O
product | 2-[3-(2-Phenyl-[1,3]dioxolan-2-yl)-propyl]-isoindole-1,3-dione | 47.62 g, 84% | C1(=CC=CC=C1)C1(OCCO1)CCCN1C(C2=CC=CC=C2C1=O)=O | C20H19NO4
